US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and 2-phenoxyethanol, there is obtained 2-phenoxyethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 358 (20), 265 (7), 237 (65), 194 (100);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | 2-phenoxyethanol | O(C1=CC=CC=C1)CCO | C8H10O2
product | 2-phenoxyethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCOC3=CC=CC=C3)=N | C23H22N2O2
